US04294960
Vilsmeier reagent prepared from dimethylformamide (0.22 g.) and phosphorus oxychloride (0.46 g.) was suspended in dry ethyl acetate (20 ml.). 2-(2-Formamido-4-thiazolyl)-2-methoxyiminoacetic acid (anti isomer, 0.62 g.) was added to the suspension underice-cooling with stirring, and the mixture was stirred at the same temperature for 30 minutes to prepare the activated acid solution. The solution was added all at once to a solution of p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate (1 g.) and trimethylsilylacetamide (2.58 g.) in ethyl acetate (20 ml.) at -20° C. with stirring, and the mixed solution was stirred at -10° to -20° C. for 1.5 hours. To the resultant solution was added water (20 ml.), and the solution was stirred at -20° C. After separating the ethyl acetate layer, the aqueous layer was extracted with ethyl acetate (20 ml.). The ethyl acetate layer and the extract were combined together, washed with 10 % hydrochloric acid (20 ml.) twice, water (20 ml.) once, a 5% aqueous solution of sodium bicarbonate (20 ml.) three times, and an aqueous solution of sodium chloride (20 ml.) once in turn, dried, and then concentrated under reduced pressure. The residue was washed with diethyl ether (50 ml.) to give p-nitrobenzyl 7-{2(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate (anti isomer, 1.27 g.), m.p. 135° to 145° C. (dec.).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 0.46 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-Formamido-4-thiazolyl)-2-methoxyiminoacetic acid | 0.62 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
reactant | p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate | 1 g | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
reactant | trimethylsilylacetamide | 2.58 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | dimethylformamide | 0.22 g | CN(C=O)C | C3H7NO
product | p-nitrobenzyl 7-{2(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate | 1.27 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H17ClN6O8S2
